US05649537
A) 2-Chloro-N-[2-(1,3-dioxolan-2-yl)ethyl]-3-phenylmethoxypropanamide
A solution of 69.63 g of 2-chloro-3-(phenylmethoxy)propanoyl chloride (prepared according to the procedure described in Inorg. Chem., 31. 2422, 1992) (0.299 mol) in 90 ml of CHCl3 was added to a solution of 35.49 g of 2-(2-aminoethyl)-1,3-dioxolane (prepared according to the procedure described in EXAMPLE 4) (0.303 mol) and to 60.3 g of triethylamine (83 ml; 0.596 mol) in 100 ml of CHCl3 under inert atmosphere, keeping the temperature at 0°-5° C. The reaction mixture was stirred for 5 h at 25° C., then was washed with H2O. The organic phase was dried and evaporated to dryness, the residue was purified by flash chromatography. 61.68 g of the desired product (0.197 mol) were obtained.

reactant | 2-chloro-3-(phenylmethoxy)propanoyl chloride | 69.63 g | ClC(C(=O)Cl)COCC1=CC=CC=C1 | C10H10Cl2O2
reactant | 2-(2-aminoethyl)-1,3-dioxolane | 35.49 g | NCCC1OCCO1 | C5H11NO2
reactant | triethylamine | 0.596 mol, 83 ml, 60.3 g | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 90 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-N-[2-(1,3-dioxolan-2-yl)ethyl]-3-phenylmethoxypropanamide | 0.197 mol, 61.68 g, Yield: 66% | ClC(C(=O)NCCC1OCCO1)COCC1=CC=CC=C1 | C15H20ClNO4
